US04301282
To a solution of 490 g. (4 moles) of ethyl chloroacetate in 1500 ml. of acetonitrile were added 260 g. (4 moles) of sodium azide, and the mixture was heated at the reflux temperature for 20 hours. After heating, the reaction mixture was poured into 1 liter of water with stirring for 1/2 hour. The organic phase was separated from the aqueous phase and evaporated in vacuo to dryness. The yellow residual oil was dissolved in 1200 ml. of diethyl ether and the solution was dried over magnesium sulfate. Evaporation of the diethyl ether in vacuo gave 391 g. (76% yield) of ethyl azidoacetate.

reactant | ethyl chloroacetate | 4 moles | ClCC(=O)OCC | C4H7ClO2
reactant | acetonitrile | C(C)#N | C2H3N
reactant | sodium azide | 4 moles | [N-]=[N+]=[N-].[Na+]
solvent | water | 1 liter | O | H2O
product | ethyl azidoacetate | 76% yield | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
